US09056858B2
To a solution of crude 1-(2-bromo-pyridin-4-yl)-cyclopropanecarboxylic acid (0.350 g, 1.45 mmol) in tert-butanol (7 mL) in a pressure vessel is added diphenylphosphoryl azide (0.312 mL, 1.45 mmol) and triethylamine (0.202 mL, 1.45 mmol). The tube is sealed and the reaction mixture is stirred at 90° C. After 4 hours, the pressure vessel is cooled in an ice-bath, vented and opened. The reaction mixture is concentrated in vacuo. The resulting residue is dissolved in ethyl acetate (70 mL), washed with saturated aqueous ammonium chloride (70 mL) and saturated aqueous sodium bicarbonate (70 mL), dried over MgSO4, filtered and concentrated. The residue is purified by silica gel chromatography eluting with a gradient of 0-50% ethyl acetate in heptane to afford [1-(2-bromo-pyridin-4-yl)-cyclopropyl]-carbamic acid tert-butyl ester.

reactant | 1-(2-bromo-pyridin-4-yl)-cyclopropanecarboxylic acid | 1.45 mmol, 0.350 g | BrC1=NC=CC(=C1)C1(CC1)C(=O)O | C9H8BrNO2
reactant | diphenylphosphoryl azide | 1.45 mmol, 0.312 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.45 mmol, 0.202 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 7 mL | C(C)(C)(C)O | C4H10O
product | [1-(2-bromo-pyridin-4-yl)-cyclopropyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CC1)C1=CC(=NC=C1)Br)=O | C13H17BrN2O2
